US04145299
Preparation of 2,3-diacetoxy-7-naphthalenesulfonyl chloride
A mixture of 14.4 g. (0.0416 mole) of 2,3-diacetoxy-7-naphthalenesulfonic acid sodium salt, 150 ml. of thionyl chloride and 1 ml. of DMF was stirred 1 hr. at room temperature and 1 hr. at reflux, cooled to room temperature and poured into 1 l. of petroleum ether. The solid was collected, washed with petroleum ether and dried to give 11.3 g. (79.9%) of cream-colored product, m.p. 158°-167° C.

reactant | 2,3-diacetoxy-7-naphthalenesulfonic acid sodium salt | 0.0416 mole | [Na+].C(C)(=O)OC1=CC2=CC(=CC=C2C=C1OC(C)=O)S(=O)(=O)[O-]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,3-diacetoxy-7-naphthalenesulfonyl chloride | C(C)(=O)OC1=CC2=CC(=CC=C2C=C1OC(C)=O)S(=O)(=O)Cl | C14H11ClO6S
